US08440662B2
Step 3: 2-Amino-4-bromo-5-fluoro-benzoic acid
To a 100 mL round bottom flask, 6-bromo-5-fluoro-1H-indole-2,3-dione (3 g, 0.0121 mol) and 2N NaOH (15 mL) were added and cooled the reaction vessel to 0° C. To this reaction mixture 30% hydrogen peroxide (10.5 mL) was slowly added. The reaction mixture was stirred at 0° C. for 3 h. Subsequently, the reaction mixture was acidified with 2 N HCl at 0° C. [pH-5] to afford the solid compound. The solid material was collected by filtration and dried to obtain the title compound (700 mg, 25%). 1H NMR (300 MHz, DMSO-d6): δ 7.52 (d, J=9.6 Hz, 1H), 7.09 (d, J=6.0 Hz, 1H); LC-MS (ESI): Calculated mass: 232.9; Observed mass: 231.9 [M−H]+ (RT: 0.23 min).

reactant | 6-bromo-5-fluoro-1H-indole-2,3-dione | 0.0121 mol, 3 g | BrC1=C(C=C2C(C(NC2=C1)=O)=O)F | C8H3BrFNO2
reactant | NaOH | 2N, 15 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 10.5 mL | OO | H2O2
reactant | HCl | 2 N | Cl | ClH
product | 2-Amino-4-bromo-5-fluoro-benzoic acid | 700 mg, 25% | NC1=C(C(=O)O)C=C(C(=C1)Br)F | C7H5BrFNO2
